US07615651B2
Preparation of Intermediate (4-Bromo-3-fluoro-benzyl)-(3-methyl-butyl)-amine (I-5b)
4-Bromo-3-fluoro-N-(3-methylbutyl)benzamide (I-5a: 2.6 g, 9.02 mmol) was dissolved in tetrahydrofuran (20 ml) and treated with 1M borane in tetrahydrofuran (20 ml, 18.04 mmol) at room temperature. After heating at reflux for 24 hours, the reaction mixture was carefully treated with concentrated HCl and then heated at reflux for 1 additional hour. After cooling to ambient temperature, the reaction mixture was filtered and the resulting solid suspended in 1N aqueous NaOH and the mixture extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and evaporated under reduced pressure. The resulting material used in the subsequent reaction without further purification.

reactant | 4-Bromo-3-fluoro-N-(3-methylbutyl)benzamide | 9.02 mmol, 2.6 g | BrC1=C(C=C(C(=O)NCCC(C)C)C=C1)F | C12H15BrFNO
reactant | borane | 1M | B | BH3
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18.04 mmol, 20 ml | O1CCCC1 | C4H8O
product | (4-Bromo-3-fluoro-benzyl)-(3-methyl-butyl)-amine | BrC1=C(C=C(CNCCC(C)C)C=C1)F | C12H17BrFN
